US06838463B2
In 6 ml of acetonitrile was dissolved 255 mg of 4-(2,3-difluorophenyl)-6-(4-hydroxy-2-butynyloxy)pyrimidine, to which 148 mg of 2,2-difluoro-1,3-dimethylimidazolidine was added, followed by stirring at room temperature for 24 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 43 mg of 4-(2,3-difluorophenyl)-6-(4-fluoro-2-butynyloxy)pyrimidine (the present compound (135)).

reactant | 4-(2,3-difluorophenyl)-6-(4-hydroxy-2-butynyloxy)pyrimidine | 255 mg | FC1=C(C=CC=C1F)C1=NC=NC(=C1)OCC#CCO | C14H10F2N2O2
reactant | 2,2-difluoro-1,3-dimethylimidazolidine | 148 mg | FC1(N(CCN1C)C)F | C5H10F2N2
reactant | water | O | H2O
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 4-(2,3-difluorophenyl)-6-(4-fluoro-2-butynyloxy)pyrimidine | 43 mg | FC1=C(C=CC=C1F)C1=NC=NC(=C1)OCC#CCF | C14H9F3N2O
